US06869949B2
15. (7R,8R,9R)-3-Bromo-7-hydroxy-8-(2-methoxyethoxy)-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
A suspension of 0.30 g (0.54 mmol) of (7R,8R,9R)-10-acetyl-3-bromo-8-(2-methoxyethoxy)-2-methyl-9-phenyl-7-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine, 0.10 ml (0.60 mmol) aqueous potassium hydroxide (6 N) and 0.20 ml (5.14 mmol) hydrazine hydrate in methanol is stirred al 60° C. for 4 h. The methanol is removed in vacuo and the reaction mixture is diluted with water. Subsequently the mixture is extracted twice with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulphate and evaporated in vacuo. The crude product is purified by column chromatography (toluene/dioxane/acetic acid: 8/1/1) to give 0.12 g (0.28 mmol/52%) of the title compound as an amorphous solid. 1H-NMR (200 MHz, [D6] DMSO): δ=2.30 (s, 1H), 3.09 (s, 1H), 3.10-3.30 (m, 2H), 3.45-3.70 (m, 2H), 4.48 (d, 1H), 4.68 (d, 1H), 6.96 (d, 1H), 7.20-7.51 (m, 5H), 7.58 (d, 1H).

reactant | (7R,8R,9R)-10-acetyl-3-bromo-8-(2-methoxyethoxy)-2-methyl-9-phenyl-7-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 0.54 mmol, 0.30 g | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3Br)C)OC(C(C)(C)C)=O)OCCOC)C3=CC=CC=C3 | C27H32BrN3O5
reactant | potassium hydroxide | 0.60 mmol, 6 N, 0.10 ml | [OH-].[K+]
reactant | hydrazine hydrate | 5.14 mmol, 0.20 ml | O.NN
solvent | methanol | CO | CH4O
product | (7R,8R,9R)-3-Bromo-7-hydroxy-8-(2-methoxyethoxy)-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | BrC1=C(N=C2N1C=CC=1[C@H]([C@@H]([C@H](NC21)C2=CC=CC=C2)OCCOC)O)C | C20H22BrN3O3
